US08981085B2
A solution of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-3-carboxamide (205 mg, 0.625 mmol) in n-BuOH (5 mL) was treated with (R)-tert-butyl piperidin-3-ylcarbamate (626 mg, 3.12 mmol) and stirred at 160° C. for 18 hours in a sealed tube. The solvent was then removed in vacuo, and the residue was dissolved in EtOAc (50 mL) and washed with water (1×10 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by C-18 flash chromatography (25M+) on Biotage SP4 unit eluting with a gradient of 7-80% CH3CN/water (25 CV) to provide tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (65 mg, 20% yield). 1H NMR (400 MHz, CDCl3) δ 9.65 (s, 1H), 8.78 (br s, 1H), 8.26 (s, 1H), 8.02 (s, 1H), 4.54-4.47 (m, 1H), 4.05-3.98 (m, 2H), 3.96-3.90 (m, 1H), 3.83-3.72 (m, 1H), 3.70-3.60 (m, 1H), 3.47-3.39 (m, 2H), 3.18-3.09 (m, 2H), 3.07-3.00 (m, 1H), 2.41-2.33 (m, 1H), 2.28-2.16 (m, 1H), 2.03-1.95 (m, 1H), 1.85-1.74 (m, 2H), 1.42 (s, 9H); LCMS (APCI+) m/z 508.1, 510 (M+H)+, Retention time=3.42 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-3-carboxamide | 0.625 mmol, 205 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2COCC2)F | C12H11BrFN3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 3.12 mmol, 626 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | tert-butyl (3R)-1-(5-bromo-3-(tetrahydrofuran-3-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 65 mg, 20% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2COCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O4
